US09212187B2
1-Ethyl-7-({N-(2-hydroxymethylbenzyl)-N-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
Sodium borohydride (47 mg) were added to a methanol solution(10 ml) of 2-({N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)benzaldehyde (0.59 g) and the mixture was stirred for 3 hours at 0° C. Water was added to the reaction mixture, followed by extraction by ethyl acetate. The organic layer was dried by anhydrous sodium sulfate, and condensed under reduced pressure. The residue was recrystallized from ethyl acetate-ether mixture to give the title compound(0.42 g) as a pale brown white powder.

reactant | Sodium borohydride | 47 mg | [BH4-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
reactant | 2-({N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)benzaldehyde | 0.59 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(CCN2C(C1=C(C=C2)OC(=C1)C)=O)CC1=C(C=O)C=CC=C1 | C33H36N4O5
solvent | Water | O | H2O
product | 1-Ethyl-7-({N-(2-hydroxymethylbenzyl)-N-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.42 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(CCN2C(C1=C(C=C2)OC(=C1)C)=O)CC1=C(C=CC=C1)CO | C33H38N4O5
